US08877779B2
To a solution of ethyl (5-fluoro-3,4-dihydronaphthalen-1-yl)acetate (16.4 g) in benzene (500 mL) was DDQ (2,3-dichloro-5,6-dicyanobenzoquinone)(21.5 g), and the mixture was stirred with heating for 3 hr. After cooling, the precipitated solid was dissolved in 1N sodium hydroxide, and the mixture was extracted with toluene. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give ethyl (5-fluoronaphthalen-1-yl)acetate (5.66 g).

reactant | ethyl (5-fluoro-3,4-dihydronaphthalen-1-yl)acetate | 16.4 g | FC1=C2CCC=C(C2=CC=C1)CC(=O)OCC | C14H15FO2
reactant | DDQ | 21.5 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 500 mL | C1=CC=CC=C1 | C6H6
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | ethyl (5-fluoronaphthalen-1-yl)acetate | 5.66 g | FC1=C2C=CC=C(C2=CC=C1)CC(=O)OCC | C14H13FO2
